US07595397B2
1-(4-Bromo-benzyl)-piperazine
This compound could be made in the following manner: 2 g of 4-Bromobenzyl bromide and 1 equ. piperazine in acetonitrile would be stirred at room temperature and 1.1 g of potassium carbonate would be added. The reaction would be stirred at room temperature overnight. The solution would then be filtered through Celite and concentrated in vacuo to afford the crude product. Purification would be done by flash chromatography using a methylene chloride/methanol gradient.

reactant | 4-Bromobenzyl bromide | 2 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4-Bromo-benzyl)-piperazine | BrC1=CC=C(CN2CCNCC2)C=C1 | C11H15BrN2
